US08017801B2
Before the start of the reaction, the loop reactor is filled with a solution of 25.7% by weight of tert-butyl hydroperoxide and 15.0% by weight of potassium hydroxide in water. Initially 20.2 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 18.2 kg/h of a solution of 45% by weight of potassium hydroxide in water, 16.2 kg/h of water and 19.2 kg/h of 3,5,5-trimethylhexanoyl chloride are then fed to the loop reactor. Cooling with cooling water keeps the internal temperature at 25° C. in the loop reactor and in the stirred cell reactor. The partial neutralization is effected with 27.6 kg/h of 4% by weight hydrochloric acid at a temperature of 15° C. The organic phase is extracted with 23.6 kg/h of a 20% by weight aqueous solution of potassium hydroxide. This affords 26.2 kg/h of aqueous extract comprising 9.6% by weight of tert-butyl hydroperoxide and 18.0% by weight of potassium hydroxide, which are feeded into the loop reactor. From the time at which aqueous extract is recycled into the loop reactor, the metered addition of the feedstocks is changed to 16.6 kg/h of a solution of 70% by weight of tert-butyl hydroperoxide in water, 7.8 kg/h of a solution of 45% by weight of potassium hydroxide in water and 4.8 kg/h of water. After the extraction, the organic phase is washed with 33.8 kg/h of a solution of 3% by weight of sodium sulphite and 1% by weight of sulphuric acid, and dried by stripping at 34° C. and 47 mbar. 24.6 kg/h of tert-butyl peroxy-3,5,5-trimethylhexanoate with a purity of 99.9% are obtained (98.2% yield based on 3,5,5-trimethylhexanoyl chloride).

reactant | tert-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | 3,5,5-trimethylhexanoyl chloride | CC(CC(=O)Cl)CC(C)(C)C | C9H17ClO
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | tert-butyl peroxy-3,5,5-trimethylhexanoate | 98.2% yield | CC(CC(=O)OOC(C)(C)C)CC(C)(C)C | C13H26O3
